US07612078B2
3-((4-(6-Chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)benzonitrile
The title compound was prepared (282 mg, 75%) from 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine dihydrochloride (333 mg, 0.98 mmol) and 3-(bromomethyl)benzonitrile (191 mg, 0.98 mmol) by following the general procedure described for Preparation 12. 1H NMR (400 MHz, CDCl3) δ 8.44 (s, 1H), 7.68 (s, 1H), 7.57 (d, 2H), 7.43 (t, 1H), 7.00 (s, 1H), 4.88 (d, 1H), 4.20 (m, 1H), 3.56 (s, 2H), 2.85 (d, 2H), 2.25 (dt, 2H), 2.12 (d, 2H), 1.59 (m, 2H); MS (ESI) m/z: Calculated for C19H19ClN5S, 384.1; Observed: 384.2 (M++1).

reactant | 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine dihydrochloride | 0.98 mmol, 333 mg | Cl.Cl.ClC1=CC2=C(N=CN=C2NC2CCNCC2)S1
reactant | 3-(bromomethyl)benzonitrile | 0.98 mmol, 191 mg | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
product | 3-((4-(6-Chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)benzonitrile | ClC1=CC2=C(N=CN=C2NC2CCN(CC2)CC=2C=C(C#N)C=CC2)S1 | C19H18ClN5S
